US03931411
A mixture containing 22.16 parts of ethyl 2-ethoxy-5-oxocyclopent 1-eneheptanoate, 785 parts of 0.1N aqueous sodium hydroxide and 320 parts of ethanol is stored at room temperature for about 48 hours, then is concentrated to approximately 2/3 volume by distillation under reduced pressure. The residual solution is washed with ether, acidified with dilute hydrochloric acid, then extracted with ethyl acetate. The ethyl acetate extracts are washed with water, dried over anhydrous magnesium sulfate and evaporated to dryness by distillation under reduced pressure. The residual solid residue is purified by recrystallization from ether-benzene to afford 2-ethoxy-5-oxocyclopent-1-eneheptanoic acid, melting at about 65°-66°.

reactant | ethyl 2-ethoxy-5-oxocyclopent 1-eneheptanoate | C(C)OC1=C(C(CC1)=O)CCCCCCC(=O)OCC | C16H26O4
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-ethoxy-5-oxocyclopent-1-eneheptanoic acid | C(C)OC1=C(C(CC1)=O)CCCCCCC(=O)O | C14H22O4
